US08865701B2
Step 4: Benzyl 2-cyclohexyl-4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate
A solution of BF3.OEt2 (4.93 ml, 38.9 mmol) in CH2Cl2 (30 ml) was added to a stirred solution of benzyl 2-cyclohexyl-4-hydroxy-4-phenylpiperidine-1-carboxylate (5 g, 12.71 mmol) in CH2Cl2 (244 ml) at 0° C. The mixture was stirred at room temperature for 15 minutes. Saturated sodium bicarbonate (100 ml) was added after 15 minutes. Extracted twice with CH2Cl2 and the combined organics were dried and concentrated. The crude product was not purified.

reactant | BF3.OEt2 | 38.9 mmol, 4.93 ml | B(F)(F)F.CCOCC
reactant | benzyl 2-cyclohexyl-4-hydroxy-4-phenylpiperidine-1-carboxylate | 12.71 mmol, 5 g | C1(CCCCC1)C1N(CCC(C1)(C1=CC=CC=C1)O)C(=O)OCC1=CC=CC=C1 | C25H31NO3
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 244 ml | C(Cl)Cl | CH2Cl2
product | Benzyl 2-cyclohexyl-4-phenyl-3,6-dihydropyridine-1(2H)-carboxylate | C1(CCCCC1)C1N(CC=C(C1)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H29NO2
